### PR TITLE
[Merged by Bors] - chore(Algebra): make `TensorProduct.equivOfCompatibleSMul` more linear

### PR DESCRIPTION
**Pull request by chrisflav**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 1]
```diff
@@ -302,40 +302,46 @@ end
 
 section CompatibleSMul
 
-variable (R A M N) [CommSemiring A] [Module A M] [Module A N] [SMulCommClass R A M]
+variable (R) (A : Type*) (S : Type*) (M : Type*) (N : Type*)
+  [AddCommMonoid M] [AddCommMonoid N] [Module R M]
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean]:
```suggestion
variable (R) (A S M N : Type*) [AddCommMonoid M] [AddCommMonoid N] [Module R M]
```

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 2]
```diff
@@ -302,40 +302,46 @@ end
...
 
 attribute [local instance] SMulCommClass.symm
 
-/-- `mapOfCompatibleSMul R A M N` is also R-linear. -/
-def mapOfCompatibleSMul' : M ⊗[A] N →ₗ[R] M ⊗[R] N where
-  __ := mapOfCompatibleSMul R A M N
-  map_smul' _ x := x.induction_on (map_zero _) (fun _ _ ↦ by simp [smul_tmul'])
-    fun _ _ h h' ↦ by simpa using congr($h + $h')
+@[deprecated (since := "2026-02-21")]
+alias mapOfCompatibleSMul':= mapOfCompatibleSMul
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean]:
```suggestion
alias mapOfCompatibleSMul' := mapOfCompatibleSMul
```

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 3]
```diff
@@ -302,40 +302,46 @@ end
...
     fun _ _ ⟨x, hx⟩ ⟨y, hy⟩ ↦ ⟨x + y, by simpa using congr($hx + $hy)⟩
 
 attribute [local instance] SMulCommClass.symm
 
-/-- `mapOfCompatibleSMul R A M N` is also R-linear. -/
-def mapOfCompatibleSMul' : M ⊗[A] N →ₗ[R] M ⊗[R] N where
-  __ := mapOfCompatibleSMul R A M N
-  map_smul' _ x := x.induction_on (map_zero _) (fun _ _ ↦ by simp [smul_tmul'])
-    fun _ _ h h' ↦ by simpa using congr($h + $h')
+@[deprecated (since := "2026-02-21")]
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean]:
```suggestion
@[deprecated "with (S := R)" (since := "2026-02-21")]
```

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 4]
```diff
@@ -302,40 +302,46 @@ end
...
+alias mapOfCompatibleSMul':= mapOfCompatibleSMul
 
 /-- If the R- and A-actions on M and N satisfy `CompatibleSMul` both ways,
 then `M ⊗[A] N` is canonically isomorphic to `M ⊗[R] N`. -/
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean]:
```suggestion
/-- If the R- and A-actions on M and N satisfy `CompatibleSMul` both ways,
then `M ⊗[A] N` is canonically isomorphic to `M ⊗[R] N` as `S`-modules,
where `S` is another ring whose actions on `M` and `N` commute with the `A`-actions. -/
```

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 5]
```diff
@@ -302,40 +302,46 @@ end
...
-def mapOfCompatibleSMul : M ⊗[A] N →ₗ[A] M ⊗[R] N :=
-  lift
-  { toFun := fun m ↦
-    { __ := mk R M N m
-      map_smul' := fun _ _ ↦ (smul_tmul _ _ _).symm }
-    map_add' := fun _ _ ↦ LinearMap.ext <| by simp
-    map_smul' := fun _ _ ↦ rfl }
-
-@[simp] theorem mapOfCompatibleSMul_tmul (m n) : mapOfCompatibleSMul R A M N (m ⊗ₜ n) = m ⊗ₜ n :=
+canonical S-linear map from `M ⊗[A] N` to `M ⊗[R] N`. -/
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean]:
```suggestion
canonical S-linear map from `M ⊗[A] N` to `M ⊗[R] N`,
where `S` is another ring whose actions on `M` and `N` commute with the `A`-actions. -/
```

File: Mathlib/RingTheory/TensorProduct/Maps.lean [hunk 6]
```diff
@@ -269,46 +269,46 @@ theorem rid_symm_apply (a : A) : (TensorProduct.rid R S A).symm a = a ⊗ₜ 1 :
...
 variable [Algebra R A] [Algebra R B] [Algebra S A] [Algebra S B]
+variable [Algebra T A] [SMulCommClass R T A] [SMulCommClass S T A]
 variable [SMulCommClass R S A] [CompatibleSMul R S A B]
 
 /-- If A and B are both R- and S-algebras and their actions on them commute,
 and if the S-action on `A ⊗[R] B` can switch between the two factors, then there is a
-canonical S-algebra homomorphism from `A ⊗[S] B` to `A ⊗[R] B`. -/
-def mapOfCompatibleSMul : A ⊗[S] B →ₐ[S] A ⊗[R] B :=
-  .ofLinearMap (_root_.TensorProduct.mapOfCompatibleSMul R S A B) rfl fun x ↦
+canonical T-algebra homomorphism from `A ⊗[S] B` to `A ⊗[R] B`. -/
```
Comment (kckennylau) [inline Mathlib/RingTheory/TensorProduct/Maps.lean]:
```suggestion
canonical T-algebra homomorphism from `A ⊗[S] B` to `A ⊗[R] B`,
where `T` is another ring whose actions on `A` and `B` commute with the `S`-actions. -/
```

**Review by kckennylau — CHANGES_REQUESTED** [review]

File: Mathlib/RingTheory/Smooth/Fiber.lean [hunk 7]
```diff
@@ -227,7 +227,7 @@ lemma IsSmoothAt.of_formallySmooth_fiber
       ((TensorProduct.comm _ _ _).restrictScalars R).trans <|
       ((TensorProduct.congr (.refl (R := S)) e).restrictScalars R).trans <|
       ((TensorProduct.cancelBaseChange _ _ S _ _).restrictScalars R).trans <|
-      (TensorProduct.comm _ _ _).trans (TensorProduct.equivOfCompatibleSMul _ _ _ _)
+      (TensorProduct.comm _ _ _).trans (TensorProduct.equivOfCompatibleSMul _ _ _ _ _)
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Smooth/Fiber.lean]:
```suggestion
      (TensorProduct.comm _ _ _).trans (TensorProduct.equivOfCompatibleSMul ..)
```
might as well be an occasion to use this

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean [hunk 8]
```diff
@@ -101,8 +101,8 @@ private lemma coassoc :
         (AlgebraTensorModule.tensorTensorTensorComm _ _ _ _ _ _ _ _)
   let F' : A ⊗[S] (A ⊗[S] A) ⊗[R] (B ⊗[R] (B ⊗[R] B)) →ₗ[S]
       A ⊗[R] B ⊗[S] (A ⊗[R] B ⊗[S] (A ⊗[R] B)) :=
-    TensorProduct.mapOfCompatibleSMul _ _ _ _ ∘ₗ
-        TensorProduct.map .id (TensorProduct.mapOfCompatibleSMul _ _ _ _) ∘ₗ F.toLinearMap
+    TensorProduct.mapOfCompatibleSMul _ _ _ _ _ ∘ₗ
+        TensorProduct.map .id (TensorProduct.mapOfCompatibleSMul _ _ _ _ _) ∘ₗ F.toLinearMap
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Coalgebra/TensorProduct.lean]:
```suggestion
    TensorProduct.mapOfCompatibleSMul .. ∘ₗ
        TensorProduct.map .id (TensorProduct.mapOfCompatibleSMul ..) ∘ₗ F.toLinearMap
```

File: Mathlib/RingTheory/TensorProduct/Maps.lean [hunk 9]
```diff
@@ -666,7 +667,7 @@ def lmul'' : S ⊗[R] S →ₐ[S] S :=
     (fun a₁ a₂ b₁ b₂ => by simp [mul_mul_mul_comm]) <| by simp
 
 theorem lmul''_eq_lid_comp_mapOfCompatibleSMul :
-    lmul'' R = (TensorProduct.lid S S).toAlgHom.comp (mapOfCompatibleSMul' _ _ _ _) := by
+    lmul'' R = (TensorProduct.lid S S).toAlgHom.comp (mapOfCompatibleSMul _ _ _ _ _) := by
```
Comment (robin-carlier) [inline Mathlib/RingTheory/TensorProduct/Maps.lean]:
```suggestion
    lmul'' R = (TensorProduct.lid S S).toAlgHom.comp (mapOfCompatibleSMul ..) := by
```

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 10]
```diff
@@ -302,40 +302,47 @@ end
...
-  lift
-  { toFun := fun m ↦
-    { __ := mk R M N m
-      map_smul' := fun _ _ ↦ (smul_tmul _ _ _).symm }
-    map_add' := fun _ _ ↦ LinearMap.ext <| by simp
-    map_smul' := fun _ _ ↦ rfl }
-
-@[simp] theorem mapOfCompatibleSMul_tmul (m n) : mapOfCompatibleSMul R A M N (m ⊗ₜ n) = m ⊗ₜ n :=
+canonical S-linear map from `M ⊗[A] N` to `M ⊗[R] N`,
+where `S` is another ring whose actions on `M` and `N` commute with the `A`-actions. -/
```
Comment (robin-carlier) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean]:
```suggestion
where `S` is any other ring acting on `M` and whose action commute with the `A` and `R`-actions. -/
```
I guess this is more precise? or did I misunderstand the situation? (as far as I can tell, a priori there is no `S`-action on `N`.)

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 11]
```diff
@@ -302,40 +302,47 @@ end
...
-  lift
-  { toFun := fun m ↦
-    { __ := mk R M N m
-      map_smul' := fun _ _ ↦ (smul_tmul _ _ _).symm }
-    map_add' := fun _ _ ↦ LinearMap.ext <| by simp
-    map_smul' := fun _ _ ↦ rfl }
-
-@[simp] theorem mapOfCompatibleSMul_tmul (m n) : mapOfCompatibleSMul R A M N (m ⊗ₜ n) = m ⊗ₜ n :=
+canonical S-linear map from `M ⊗[A] N` to `M ⊗[R] N`,
+where `S` is any other ring acting on `M` and whose action commute with the `A` and `R`-actions. -/
```
Comment (robin-carlier) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean]:
```suggestion
where `S` is any other ring acting on `M` and whose action commutes with the `A` and `R`-actions. -/
```
my bad

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 12]
```diff
@@ -302,40 +302,47 @@ end
...
+@[deprecated "with (S := R)" (since := "2026-02-21")]
+alias mapOfCompatibleSMul' := mapOfCompatibleSMul
 
 /-- If the R- and A-actions on M and N satisfy `CompatibleSMul` both ways,
-then `M ⊗[A] N` is canonically isomorphic to `M ⊗[R] N`. -/
-def equivOfCompatibleSMul [CompatibleSMul A R M N] : M ⊗[A] N ≃ₗ[A] M ⊗[R] N where
-  __ := mapOfCompatibleSMul R A M N
-  invFun := mapOfCompatibleSMul A R M N
+then `M ⊗[A] N` is canonically isomorphic to `M ⊗[R] N` as `S`-modules,
+where `S` is another ring whose actions on `M` and `N` commute with the `A`-actions. -/
```
Comment (robin-carlier) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean]:
```suggestion
where `S` is any other ring acting on `M` and whose action commutes with the `A` and `R`-actions. -/
```

File: Mathlib/RingTheory/TensorProduct/Maps.lean [hunk 13]
```diff
@@ -269,46 +269,47 @@ theorem rid_symm_apply (a : A) : (TensorProduct.rid R S A).symm a = a ⊗ₜ 1 :
...
+variable [Algebra T A] [SMulCommClass R T A] [SMulCommClass S T A]
 variable [SMulCommClass R S A] [CompatibleSMul R S A B]
 
 /-- If A and B are both R- and S-algebras and their actions on them commute,
 and if the S-action on `A ⊗[R] B` can switch between the two factors, then there is a
-canonical S-algebra homomorphism from `A ⊗[S] B` to `A ⊗[R] B`. -/
-def mapOfCompatibleSMul : A ⊗[S] B →ₐ[S] A ⊗[R] B :=
-  .ofLinearMap (_root_.TensorProduct.mapOfCompatibleSMul R S A B) rfl fun x ↦
+canonical T-algebra homomorphism from `A ⊗[S] B` to `A ⊗[R] B`,
+where `T` is another ring whose actions on `A` and `B` commute with the `S`-actions. -/
```
Comment (robin-carlier) [inline Mathlib/RingTheory/TensorProduct/Maps.lean]:
```suggestion
where `T` is any other ring acting on `A` and whose action commutes with the `R` and `S`-actions. -/
```

**Review by robin-carlier — COMMENTED** [review]
A few more similar docstring modifications.

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean (hunk 11 above)
Comment (chrisflav) [reply Mathlib/LinearAlgebra/TensorProduct/Basic.lean]: My bad for not properly proof-reading :)
